US07754737B2
A mixture of (S)-tert-butyl 1-azido-3-cyclohexylpropan-2-ylcarbamate (13.6 g, 0.048 mol) and Pd/C (1.4 g) in methanol (200 mL) was hydrogenated with a balloon overnight. The mixture was filtered through a pad of Celite and the solvent was removed to give (S)-tert-butyl 1-amino-3-cyclohexylpropan-2-ylcarbamate (10.5 g, 86%), which was used in the next step without purification. 1H NMR (400 MHz, CDCl3): 4.52 (d, J=8.4 Hz, 1H), 3.68 (m, 2H), 2.73 (dd, J=13.6&4.4 Hz, 1H), 2.58 (dd, J=13.6&6.0 Hz, 1H), 1.81 (m, 1H), 1.65 (m, 4H), 1.42 (s, 9H), 1.40-1.00 (m, 6H), 1.00-0.70 (m, 2H). MS (E/Z): 257 (M+H+).

reactant | (S)-tert-butyl 1-azido-3-cyclohexylpropan-2-ylcarbamate | 0.048 mol, 13.6 g | N(=[N+]=[N-])C[C@H](CC1CCCCC1)NC(OC(C)(C)C)=O | C14H26N4O2
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | (S)-tert-butyl 1-amino-3-cyclohexylpropan-2-ylcarbamate | 10.5 g, 86% | NC[C@H](CC1CCCCC1)NC(OC(C)(C)C)=O | C14H28N2O2
